US06992085B2
Step A: Tributyl-(3,4,5-trimethoxyphenyl)stannane
A solution of 8 g of 1-bromo-3,4,5-trimethoxybenzene, 25 ml of hexabutyldistannane and 1.8 g of Pd(PPh3)4 in 200 ml of toluene is refluxed, under argon, for 6 hours and then concentrated to dryness. The residue is purified by chromatography over silica gel eluted with dichloromethane, which enables the expected product to be isolated.

reactant | 1-bromo-3,4,5-trimethoxybenzene | 8 g | BrC1=CC(=C(C(=C1)OC)OC)OC | C9H11BrO3
reactant | hexabutyldistannane | 25 ml | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Tributyl-(3,4,5-trimethoxyphenyl)stannane | C(CCC)[Sn](C1=CC(=C(C(=C1)OC)OC)OC)(CCCC)CCCC | InChI=1S/C9H11O3.3C4H9.Sn/c1-10-7-5-4-6-8(11-2)9(7)12-3;3*1-3-4-2;/h5-6H,1-3H3;3*1,3-4H2,2H3;
